US07851469B2
d) 1-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-ethanone
As described for Example 1e, 3-(4-chloro-phenyl)-5-trifluoromethyl-isoxazole (36 g, 145.4 mmol), instead of 3-phenyl-4-(1-phenyl-1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole, was converted to the title compound (25.2 g, 60%) which was obtained as a light orange oil. MS: m/e=287.9 [M−H]−.

reactant | 3-(4-chloro-phenyl)-5-trifluoromethyl-isoxazole | 145.4 mmol, 36 g | ClC1=CC=C(C=C1)C1=NOC(=C1)C(F)(F)F | C10H5ClF3NO
reactant | 3-phenyl-4-(1-phenyl-1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=CC=C1)C(F)(F)F | C19H12F3N3O
product | 1-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-ethanone | 25.2 g, 60% | ClC1=CC=C(C=C1)C1=NOC(=C1C(C)=O)C(F)(F)F | C12H7ClF3NO2
